US05883098
A mixture of (2R)-4-(benzyloxycarbonylmethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine (1.86 g), 10% Pd charcoal (0.186 g) and tetrahydrofuran (93 ml) was stirred for 17 hours under hydrogen gas atmosphere (1 atm). The catalyst was removed by filtration and the filtrate was concentrated. The residue was triturated with ethyl ether to give (2R)-4-(carboxymethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine (0.83 g) as a white powder.

reactant | (2R)-4-(benzyloxycarbonylmethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)-piperazine | 1.86 g | C(C1=CC=CC=C1)OC(=O)CN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C31H27F6N3O3
solvent | tetrahydrofuran | 93 ml | O1CCCC1 | C4H8O
product | (2R)-4-(carboxymethyl)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-ylmethyl)piperazine | 0.83 g | C(=O)(O)CN1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C24H21F6N3O3
